US03939263
Preparation of O,O-diethyl S-(tert-butylsulfinyl)methyl Phosphorothioate ##EQU4##
To a suspension of sodium periodate (11.8 grams, 0.055 mole, 10% excess) in 115 ml. of water, cooled to 0° to 5°C., is added O,O-diethyl S-(tert-butylthio)methyl phosphorothioate (13.6 grams, 0.050 mole) and 5.0 ml. of methanol. The reaction mixture, in an ice bath contained in an insulated bucket, is stirred overnight, during which time the ice melts and the mixture attains room temperature. Fifty ml. of methylene chloride is stirred into the mixture and the solids are filtered and washed with an additional 50 ml. of methylene chloride. The filtrate is separated and the aqueous phase extracted with two 50-ml. portions of methylene chloride. The organic solutions are combined, washed with 25-ml. portions of saturated NaCl, 5% KOH, and saturated NaCl (X2), and then dried (MgSO4). Reduced-pressure evaporation of the solvent from the dried solution gives 13.9 grams (96.5%) of clear, colorless oil which slowly crystallizes, melting point 34.5° to 36.0°C. Attempts to effect recrystallization are not successful. TLC shows the presence of only a trace amount of a contaminant.

reactant | sodium periodate | 0.055 mole, 11.8 grams | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | O | H2O
reactant | O,O-diethyl S-(tert-butylthio)methyl phosphorothioate | 0.050 mole, 13.6 grams | P(OCC)(OCC)(SCSC(C)(C)C)=O | C9H21O3PS2
reactant | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | O,O-diethyl S-(tert-butylsulfinyl)methyl Phosphorothioate | P(OCC)(OCC)(SCS(=O)C(C)(C)C)=O | C9H21O4PS2
